US07019453B2
Compound 27 intermediates: To diisopropylethyl amine (18.48 g, 143 mmol) in 200 mL of dichloromethane was added 3-acetyl-1-propanol (13.28 g, 130 mmol) at 0° C. After the solution was stirred for 0.5 hour, chloromethylmethyl ether (13.08 g, 162.5 mmol) was added while the temperature was maintained at 0° C. The resulting solution was stirred for another 1 hour, brought to room temperature and stirred overnight. Organic solvent was removed via rotary evaporation. The residue was treated with 100 mL of brine and extracted with 3×150 mL of diethyl ether. The organic layers were combined, dried over Na2SO4 and concentrated via rotary evaporation. The crude product was purified via a flash chromatography with dichloromethane as eluent to afford 5-methoxymethoxy-2-pentanone (14.3 g, yield: 75) as a pale oil.

reactant | diisopropylethyl amine | 143 mmol, 18.48 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-acetyl-1-propanol | 130 mmol, 13.28 g | C(C)(=O)CCCO | C5H10O2
reactant | chloromethylmethyl ether | 162.5 mmol, 13.08 g | ClCOC | C2H5ClO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-methoxymethoxy-2-pentanone | 14.3 g | COCOCCCC(C)=O | C7H14O3
